US05866594
Synthesis of methyl 4,7-dimethyl-3-((methylamino-carbonyl)amino)indole-2-carboxylate (compound 65)
A mixture of 0.6 g (2.75 mmol) of methyl 3-amino-4,7-dimethylindole-2-carboxylate, one drop of pyridine and 15 ml of anhydrous THF was prepared and 5.0 ml of methyl isocyanate was added dropwise at 0° C. The reaction mixture was stirred at room temperature for 2.5 hours. The crystals precipitated were separated by filtration, washed with ethyl acetate and air-dried to provide 180 mg of white crystals. Yield: 24%

reactant | methyl 3-amino-4,7-dimethylindole-2-carboxylate | 2.75 mmol, 0.6 g | NC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C12H14N2O2
reactant | methyl isocyanate | 5.0 ml | CN=C=O | C2H3NO
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | methyl 4,7-dimethyl-3-((methylamino-carbonyl)amino)indole-2-carboxylate | 180 mg, Yield: 24% | CC1=C2C(=C(NC2=C(C=C1)C)C(=O)OC)NC(=O)NC | C14H17N3O3
